Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with a history of RNYGB in ___ presents with sudden onset 
sharp LUQ/epigastric abdominal pain that woke her from sleep at 
2am earlier this morning. Throughout the day, the pain has 
gotten worse. It comes in waves where it gets particularly 
worse. She has associated nausea and dry heaves (she notes she 
has not been able to vomit since her bypass, only dry heaves). 
She has not eaten since the onset of pain. Last oral intake was 
sips of water at 1pm. She denies fever/chills.
 
Past Medical History:
PMH: asthma, migraines, fibromyalgia, Hashimoto thyroiditis, 
depression, anxiety, SBO (___), intussusception x2 (___)

PSH: RNYGB ___, bowel surgery x3 (for insussusception x2 ___, 
___ and SBO (___)- one sounds like a pexy and one sounds like 
a resection, but she is not sure what was done), C section x4, 
hysterectomy, abdominoplasty and breast augmentation
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PE at ADM:: 
T 97.9, P 75, BP 134/72, RR 16, O2 Sat 97% RA
Gen: Awake, alert, in pain and nauseated
Lungs: CTAB
CV: RRR
Abd: Soft, mild LUQ/epigastric tenderness to deep palpation; 
mildly distended; no peritoneal signs or rigidity; no 
rebounding/guarding
 
Pertinent Results:
___ 06:51PM   LACTATE-0.7
___ 06:46PM   GLUCOSE-83 UREA N-5* CREAT-0.6 SODIUM-135 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-22 ANION GAP-15
___ 06:46PM   estGFR-Using this
___ 06:46PM   ALT(SGPT)-9 AST(SGOT)-21 ALK PHOS-70 TOT 
BILI-0.3 DIR BILI-0.1 INDIR BIL-0.2
___ 06:46PM   LIPASE-42
___ 06:46PM   ALBUMIN-3.8 CALCIUM-8.0* PHOSPHATE-2.9 
MAGNESIUM-1.7
___ 06:46PM   HCG-<5
___ 06:46PM   WBC-6.8 RBC-3.22* HGB-8.6* HCT-27.7* MCV-86 
MCH-26.7 MCHC-31.0* RDW-13.6 RDWSD-42.8
___ 06:46PM   NEUTS-55.2 ___ MONOS-5.6 EOS-2.4 
BASOS-0.6 IM ___ AbsNeut-3.75 AbsLymp-2.44 AbsMono-0.38 
AbsEos-0.16 AbsBaso-0.04
___ 06:46PM   PLT COUNT-253
___ 06:46PM   ___ PTT-29.6 ___

CT ABD/Pelvis with COntrast (___)
IMPRESSION:
1. Improvement in prior likely partial small bowel obstruction, 
now with free passage of enteric contrast to the colon and 
resolution of small bowel distension.  The tethering of multiple 
loops of bowel in the upper mid abdomen with associated swirling 
mesenteric configuration, which suggests adhesions that might be 
associated with episodes of partial small bowel obstruction, is 
re- demonstrated.
2. Increased free fluid layering in the pelvis, but improvement 
in previously seen mesenteric edema.
3. Air within the urinary bladder, presumably related to recent 
instrumentation, if appropriate history exists.
4. Some contrast is seen within the pancreatico biliary limb 
status post Roux-en-Y gastric bypass surgery, with normal bowel 
caliber, possibly reflecting reflux due to previous partial 
small bowel obstruction.  Excluded portion of stomach contains 
only fluid.
 
Brief Hospital Course:
AFter Admission, An NGT placed which did not put out 
significantly . Her NGT was dced on ___. HEr f/u CT scan showed 
improvement and she was no more nauseated. SHe was started on 
clear fluids and later advanced to regular diet which was 
tolerated by her. At the time f discharge she was on regular 
diet, ambulating independently with no sign of obstruction. She 
was discharged on her home meds and the alarm signs were taught 
to her and she was advised to continue following up with her 
PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 2 mg PO QHS:PRN sleep 
2. Amitriptyline 10 mg PO QHS 
3. Levothyroxine Sodium 150 mcg PO DAILY 
4. Estradiol 2 mg PO DAILY 
5. Escitalopram Oxalate 20 mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. rizatriptan 10 mg oral BID:PRN onset of migraine 
2. ALPRAZolam 2 mg PO QHS:PRN sleep 
3. Amitriptyline 10 mg PO QHS 
4. Escitalopram Oxalate 20 mg PO DAILY 
5. Estradiol 2 mg PO DAILY 
6. Levothyroxine Sodium 150 mcg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Partial Small Bowel Obstruction, most likely adhesive

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your surgeon or return to the emergency department 
if you develop a fever greater than 101.5, chest pain, shortness 
of breath, severe abdominal pain, severe nausea or vomiting, 
severe abdominal bloating, inability to eat or drink or any 
other symptoms which are concerning to you.  

Diet: Regular

Meds: Pleas continue your home meds
You can take over the counter stool softener for constipation as 
needed.
You must not use NSAIDS (non-steroidal anti-inflammatory drugs) 
Examples are Ibuprofen, Motrin, Aleve, Nuprin and Naproxen. 
These agents will cause bleeding and ulcers in your digestive 
system.  

Activity:  
Not restricted

 
Followup Instructions:
___